US07262198B2
A solution of (4-bromobutoxy)cyclopentane (400 mg, 1.81 mmol) in EtOH (5 mL) was treated with DIEA (0.64 mL, 3.62 mmol) and 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol as prepared in Example 3A (557 mg, 1.81 mmol). The solution was stirred at reflux 15 hours. Upon cooling, the product was concentrated and purified by flash column chromatography (10% MeOH/EtOAc) to yield (2R)-3-[4-(4-cyclopentyloxybutyl)piperazinyl]-1-(2-methylbenzothiazol-5-yloxy)propan-2-ol.

reactant | (4-bromobutoxy)cyclopentane | 1.81 mmol, 400 mg | BrCCCCOC1CCCC1 | C9H17BrO
reactant | DIEA | 3.62 mmol, 0.64 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCNCC2)O | C15H21N3O2S
solvent | EtOH | 5 mL | CCO | C2H6O
product | (2R)-3-[4-(4-cyclopentyloxybutyl)piperazinyl]-1-(2-methylbenzothiazol-5-yloxy)propan-2-ol | C1(CCCC1)OCCCCN1CCN(CC1)C[C@H](COC=1C=CC2=C(N=C(S2)C)C1)O | C24H37N3O3S
